US05994577
HCl (g) was bubbled through a suspension of [2-(aminoiminomethyl)hydrazino]-acetic acid (2.00 g, 15.2 mmol) in benzyl alcohol (30 mL). The reaction was stirred for about an hour until everything was in solution. The crude product was precipitated out by adding Et2O. This material was recrystallized from MeOH/EtOAc to yield [2-(aminoiminomethyl)hydrazino] acetic acid phenylmethyl ester monohydrochloride (3.20 g, 82%) as a white crystalline solid. MP: 162-164 ° C. 1H NMR (CD3OD): δ 3.69 (s, 2H), 5.24 (s, 2H), 7.34-7.42 (m, 5H).

reactant | HCl | Cl | ClH
reactant | [2-(aminoiminomethyl)hydrazino]-acetic acid | 15.2 mmol, 2.00 g | NN=CNNCC(=O)O | C3H8N4O2
reactant | benzyl alcohol | 30 mL | C(C1=CC=CC=C1)O | C7H8O
product | [2-(aminoiminomethyl)hydrazino] acetic acid phenylmethyl ester monohydrochloride | 3.20 g, 82% | Cl.C1(=CC=CC=C1)COC(CNNC=NN)=O | InChI=1S/C10H14N4O2.ClH/c11-12-8-14-13-6-10(15)16-7-9-4-2-1-3-5-9;/h1-5,8,13H,6-7,11H2,(H,12,14);1H
